US09260408B2
[A] (S)-1-Benzyl-2-(2,2,2-trifluoro-ethoxymethyl)-pyrrolidine
To a suspension of sodium hydride (60% in mineral oil, 0.314 g, 7.84 mmol) in THF (20 mL) was added (S)-(1-benzyl-pyrrolidin-2-yl)-methanol (1.0 g, 5.23 mmol) and the reaction mixture was stirred at room temperature for 20 min. Then, 2,2,2-trifluoroethyl methanesulfonate (1.4 g, 7.84 mmol) was added and stirring was continued at room temperature over night. The reaction mixture was quenched with H2O (10 mL) and extracted with EtOAc (2×50 mL). Combined organics were dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel flash chromatography eluting with a 0 to 5% MeOH(1% NH4OH)-DCM gradient to give the title compound (0.706 g, 37%) as a light yellow liquid. MS: 274.3 (M+H+).

reactant | sodium hydride | 7.84 mmol, 0.314 g | [H-].[Na+]
reactant | (S)-(1-benzyl-pyrrolidin-2-yl)-methanol | 5.23 mmol, 1.0 g | C(C1=CC=CC=C1)N1[C@@H](CCC1)CO | C12H17NO
reactant | 2,2,2-trifluoroethyl methanesulfonate | 7.84 mmol, 1.4 g | CS(=O)(=O)OCC(F)(F)F | C3H5F3O3S
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | (S)-1-Benzyl-2-(2,2,2-trifluoro-ethoxymethyl)-pyrrolidine | 0.706 g, 37% | C(C1=CC=CC=C1)N1[C@@H](CCC1)COCC(F)(F)F | C14H18F3NO
